US08431695B2
Step 1: Preparation of 2-Benzyl-6-bromo-2H-indazole
6-Bromoindazole (14.42 g, 73.2 mmol) was suspended in 50 mL of dioxane and the mixture was treated with benzyl bromide (10.5 mL, 88.8 mmol) and then heated in an oil bath to 120° C. with mechanical stirring overnight. The resulting thick suspension was allowed to cool to 80° C. (bath temp) and 200 mL of EtOAc was added. The mixture was vigorously stirred for 20 minutes and the precipitated orange-brown solid was collected by filtration, washed well with EtOAc and air-dried. The resulting brown solid was partitioned between sat aq. NaHCO3 (100 mL) and EtOAc (300 mL) with stirring until all of the solid material had dissolved. The layers were separated and the aqueous phase was extracted with 2×100 mL of EtOAc. The combined organic phases were washed with brine, dried and filtered and concentrated in vacuo to give a brown solid. Recrystallization of the solid from 200 mL of 2:1 EtOH:water gave 12.78 g (61%) of desired product as tan needles. 1H-NMR (DMSO-d6) 8.55 (s, 1H), 7.84 (s, 1H), 7.72 (d, 1H), 7.48-7.28 (m, 5H), 7.13 (d, 1H), 5.62 (s, 2H); LC-MS [M+H]+=287.3, 289.0, RT=3.53 min.

reactant | 6-Bromoindazole | 73.2 mmol, 14.42 g | BrC1=CC=C2C=NNC2=C1 | C7H5BrN2
reactant | benzyl bromide | 88.8 mmol, 10.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-Benzyl-6-bromo-2H-indazole | 12.78 g, 61% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)Br | C14H11BrN2
